US07728025B2
(Step 3) Production of t-butyl 2-(4,5-diamino-2-(4-methanesulfonyl-phenoxy)phenyl)-pyrrolidine-1-carboxylate
20 ml of water and 4 g of 5% platinum-carbon catalyst were added to a 2-propanol (200 ml) solution of 12 g of t-butyl 2-(4-amino-2-(4-methanesulfonyl-phenoxy)-5-nitro-phenyl)-pyrrole-1-carboxylate, and the reaction liquid was stirred under a hydrogen atmosphere of 50 kgf/cm2 at 70° C. for 2 days. The catalyst was removed through filtration through Celite, the solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=50/1) to obtain the entitled compound as a dark brown oily substance.

reactant | water | 20 ml | O | H2O
reactant | t-butyl 2-(4-amino-2-(4-methanesulfonyl-phenoxy)-5-nitro-phenyl)-pyrrole-1-carboxylate | 12 g | NC1=CC(=C(C=C1[N+](=O)[O-])C=1N(C=CC1)C(=O)OC(C)(C)C)OC1=CC=C(C=C1)S(=O)(=O)C | C22H23N3O7S
catalyst | platinum carbon | 4 g | [Pt].[C]
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | t-butyl 2-(4,5-diamino-2-(4-methanesulfonyl-phenoxy)phenyl)-pyrrolidine-1-carboxylate | NC1=CC(=C(C=C1N)C1N(CCC1)C(=O)OC(C)(C)C)OC1=CC=C(C=C1)S(=O)(=O)C | C22H29N3O5S
